US09371285B2
Into a 250-mL round-bottom flask was placed methanol (100 mL), acetic acid (42 mL), Biphenylcarboxaldehyde (7.96 g, 43.7 mmol, 1 equiv), methylamine in anhydrous ethanol (20 g, 193.2 mmol, 4.4 equiv), and NaBH3CN (8.3 g, 132.1 mmol, 3 equiv). The solution was stirred overnight at 60° C. The resulting solution was diluted with 200 mL of water and extracted with 3×200 mL of ethyl acetate. The organic phase was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1/10) to give N-methyl (3-biphenyl)methylamine as a colorless oil.

reactant | Biphenylcarboxaldehyde | 43.7 mmol, 7.96 g, 1 equiv | C=1(C(=CC=CC1)C=O)C1=CC=CC=C1 | C13H10O
reactant | methylamine | CN | CH5N
reactant | ethanol | 193.2 mmol, 20 g, 4.4 equiv | C(C)O | C2H6O
reactant | NaBH3CN | 132.1 mmol, 8.3 g, 3 equiv | [BH3-]C#N.[Na+]
solvent | water | 200 mL | O | H2O
solvent | acetic acid | 42 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 100 mL | CO | CH4O
product | N-methyl (3-biphenyl)methylamine | CNCC=1C=C(C=CC1)C1=CC=CC=C1 | C14H15N
